US09079866B2
2-Bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide
The title compound was prepared in a manner similar to that described for Intermediate EU using ethylamine and 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride. 1H NMR (500 MHz, CDCl3) δ 8.43-8.38 (m, 1H), 7.93-7.86 (dd, J=8.3, 0.9, 1H), 7.70-7.62 (m, 1H), 5.08 (s, 1H), 3.11-2.96 (m, 2H), 1.19-1.09 (t, J=7.2, 3H).

reactant | ethylamine | C(C)N | C2H7N
reactant | 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
product | 2-Bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCC | C9H9BrF3NO2S
